US06001439
Polymerization and post-treatment were performed in the same manner as in Polymer Preparation Example 1 except that a mixture of 196 g of glycolide and 4 g of L-(-)-lactide (product of Tokyo Kasei Kogyo Co., Ltd.) was used in place of 200 g of glycolide, thereby obtaining a glycolic acid-lactic acid copolymer [Polymer (P-2)]. The same process was conducted repeatedly to prepare a necessary amount of Polymer (P-2).

reactant | glycolide | 196 g | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | L-(-)-lactide | 4 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
product | glycolic acid lactic acid | C(CO)(=O)O.C(C(O)C)(=O)O | InChI=1S/C3H6O3.C2H4O3/c1-2(4)3(5)6;3-1-2(4)5/h2,4H,1H3,(H,5,6);3H,1H2,(H,4,5)
